* C:\Users\Ian Diaz\Desktop\ITBA\TC\TP05\Ex3\Simulation\Sim1.asc
Ra1 N001 0 100.15604840181813
Ra2 N001 vi 3345.037884329958
R41 N003 0 289.679706226978
R42 N003 vi 9854.608091113323
C3 N005 N003 5e-09
C22 N005 vi 4.844645417917797e-10
R1 a N005 1780.338435690461
C21 N005 0 4.5155354582082204e-09
Rb a N001 1000.0
V1 VCC 0 15
V2 0 VEE 15
Ra1_2 N002 0 38868.9912100096
Ra2_2 N002 a 21401.543031005287
R41_2 N004 0 9843.463569583206
R42_2 N004 a 12303.45000078686
C3_2 N006 N004 5e-09
C22_2 N006 a 4.8800532609285135e-09
R1_2 Vo N006 270.94048210001796
C21_2 N006 0 1.1994673907148644e-10
Rb_2 Vo N002 1000.0
V3 vi 0 AC 1
XU3 a N001 N003 VEE VCC LM833
XU1 Vo N002 N004 VEE VCC LM833
* Etapa 1
* Etapa 2
.ac dec 100 10 10meg
.lib C:\Users\Ian Diaz\Documents\LTspiceXVII\lib\sym\AutoGenerated\LM833.LIB
.backanno
.end
